US04600517
A lithium hydroxystearate grease thickener was prepared by saponification of a mixture containing 12-hydroxystearic acid (8%) and the glyceride thereof (9%) with lithium hydroxide in a mineral oil vehicle (ISO 150 viscosity grade of a 70/30 mixture of naphthenic and paraffinic stocks) at about 350° F. in a closed contactor. After depressuring and dehydration of the thickener in an open kettle sufficient mineral oil was added to reduce the thickener content to about 9.0%. After cooling to 210° F., a typical grease additive package, consisting of an amine antioxidant, phenolic antioxidant, metallic dithiophosphate, sulfur-containing metal deactivator and nitrogen containing antirust additives, was added. The dropping point of this base grease was 201° C.

reactant | 12-hydroxystearic acid | OC(CCCCCCCCCCC(=O)O)CCCCCC | C18H36O3
reactant | lithium hydroxide | [OH-].[Li+]
reactant | dithiophosphate | P(=S)([S-])([O-])[O-]
reactant | sulfur | [S] | S
product | lithium hydroxystearate | OC(C(=O)[O-])CCCCCCCCCCCCCCCC.[Li+] | InChI=1S/C18H36O3.Li/c1-2-3-4-5-6-7-8-9-10-11-12-13-14-15-16-17(19)18(20)21;/h17,19H,2-16H2,1H3,(H,20,21);/q;+1/p-1
